US07557114B2
(c) 5-Chloro-6-fluoro-2,3-dihydro-1H-isoindole
Prepared in analogy to Example A2(c) from 5-chloro-6-fluoro-2-trityl-2,3-dihydro-1H-isoindole and trifluoroacetic acid. Light brown solid.

reactant | 5-chloro-6-fluoro-2-trityl-2,3-dihydro-1H-isoindole | ClC=1C=C2CN(CC2=CC1F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H21ClFN
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 5-Chloro-6-fluoro-2,3-dihydro-1H-isoindole | ClC=1C=C2CNCC2=CC1F | C8H7ClFN
